US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-6-prop-1-ynyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone
The title compound is prepared from cis-1-(1-trifluoromethane-sulfonyl-1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester (mixture of isomers regarding sulfonyl group attachment to N-1 or N-3 of the benzimidazole) and propyne following a procedure analogous to that described in Example 155; in case the sulfonyl group on one of the benzimidazole nitrogens is not completely removed after the reaction, the mixture is treated with 1-hydroxy-benzotriazole and water. Yield: 30% of theory; LC (method 1): tR=2.92 min; Mass spectrum (ESI+): m/z=356 [M+H]+.

reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | propyne | C#CC | C3H4
reactant | 1-hydroxy-benzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | water | O | H2O
product | (1H-Benzoimidazol-5-yl)-(cis-6-prop-1-ynyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone | Yield: 30% | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=C(C=CC2C1)C#CC | C23H21N3O
